US04159331
In the manner given in Example 5B, 1-[(p-nitrophenyl)sulfonyl]-4-(o-bromophenyl)piperazine is reduced with titanium chloride (TiCl3) to give 1-[(p-aminophenyl)sulfonyl]-4-(o-bromophenyl)piperazine.

reactant | 1-[(p-nitrophenyl)sulfonyl]-4-(o-bromophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)Br | C16H16BrN3O4S
catalyst | titanium chloride (TiCl3) | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-[(p-aminophenyl)sulfonyl]-4-(o-bromophenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1)Br | C16H18BrN3O2S
